US08871937B2
7-[(4-methyl-pyridin-2-ylamino)-(4-trifluoromethylphenyl)-methyl]-quinolin-8-ol
The title compound was prepared by method B presented for the compound of Example 1 with the change that 2-amino-4-methyl-pyridine (Molar), 4-trifluoromethyl-benzaldehyde (Sigma) and 8-hydroxy-quinoline (Sigma) were used as starting materials. Product obtained: C23H18F3N3O; (MW; 409.1): yield 230 mg, (29.6%) m.p.: 104-107° C.; HPLC (CH3CN/H2O 70:30 Phenomenex C18 282 nm): Tr=7.61 min. 1H NMR 8 (DMSO) δ 2.18 (3H, s, CH3), 6.41(1H, d, J=5.1 Hz), 6.44 (1H, s, NH), 6.49 (1H, d, J=4.9 Hz), 7.07 (1H, d, J=9.2 Hz), 7.39 (1H, d, J=8.9 Hz), 7.49-7.54 (1H, m), 7.58 (2H, d, J=7.9 Hz), 7.63 (2H, d, J=8.3 Hz), 7.73 (1H, d, J=7.9 Hz), 7.85 (2H, d, J=7.9 Hz), 8.03-8.08 (1H, m), 8.12 (2H, d, J=8.5 Hz), 8.27 (1H, d, J=8.2 Hz). 8.81-8.86 (1H, m); 13C-NMR 8 (DMSO) δ 23.5 (CH3), 51.8 (NHCH), 109.5 (CH), 117.6 (CH), 121.8 (CH), 124.5 (Cq), 125.1 (CH), 125.6 2×CH), 126.8 (CH), 127.7 (2×CH), 127.8 (Cq), 130.1 (CH), 134.7 (Cq), 136.1 (CH), 138.1 (Cq), 148.2 (Cq), 148.5 (CH), 149.6 (Cq), 157.7 (CH), 161.6 (Cq), 166.3 (Cq).

reactant | 2-amino-4-methyl-pyridine | NC1=NC=CC(=C1)C | C6H8N2
reactant | 4-trifluoromethyl-benzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 8-hydroxy-quinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | CH3CN H2O | CC#N.O
product | 7-[(4-methyl-pyridin-2-ylamino)-(4-trifluoromethylphenyl)-methyl]-quinolin-8-ol | CC1=CC(=NC=C1)NC(C1=CC=C2C=CC=NC2=C1O)C1=CC=C(C=C1)C(F)(F)F | C23H18F3N3O
